US06162818
1-t-Butoxycarbonyl-4-amino-2,3-dihydro-7-methylindole (1.625 g, 6.55 mmol) is dissolved in methylene chloride (15 mL). To this solution is added 4-dimethylaminopyridine (0.160 g, 1.31 mmol) and di-2-pyridyl thionocarbonate (1.52 g, 6.55 mmol). The volume of solvent is brought to 30 mL, and the solution is allowed to stir for one hour. The solution is diluted to 150 mL with chloroform and washed first with four 75-mL portions of aqueous citric acid solution followed by three 100-mL portions of aqueous potassium carbonate. The organic layer is dried over anhydrous potassium carbonate, filtered and the solvent is removed by rotary evaporation to yield an orange, oily solid. The crude product is purified by silica gel flash column chromatography using 4% ethyl acetate/hexanes to afford 1.78 g of N-t-butoxycarbonyl-2,3-dihydro-4-isothiocyanato-7-methylindole as a white solid (94% yield).

reactant | 1-t-Butoxycarbonyl-4-amino-2,3-dihydro-7-methylindole | 6.55 mmol, 1.625 g | C(C)(C)(C)OC(=O)N1CCC2=C(C=CC(=C12)C)N | C14H20N2O2
reactant | di-2-pyridyl thionocarbonate | 6.55 mmol, 1.52 g | C1=CC=NC(=C1)OC(=S)OC2=CC=CC=N2 | C11H8N2O2S
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.31 mmol, 0.160 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-t-butoxycarbonyl-2,3-dihydro-4-isothiocyanato-7-methylindole | 1.78 g, 94% yield | C(C)(C)(C)OC(=O)N1CCC2=C(C=CC(=C12)C)N=C=S | C15H18N2O2S
